data/oMe_Silver.jsonl
{"reaction_id": "NR-331_1-c1ccc(OC)cc1_2-C1CCCCC1_3-C_4-c1ccc(N(C)C)cc1_5-c1ccc(OC)cc1","level": "easy","name": "Reformatsky Reaction","reactants_smiles": ["C(Br)(C1CCCCC1)(C)C(=O)Oc1ccc(OC)cc1","O=C(c1ccc(N(C)C)cc1)c1ccc(OC)cc1","[Zn]"],"products_smiles": ["C(C(O)(c1ccc(N(C)C)cc1)c1ccc(OC)cc1)(C1CCCCC1)(C)C(=O)Oc1ccc(OC)cc1"],"conditions": "1. Zn dust; 2. Aqueous workup","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1ccc(OC)cc1OC(=O)C(C1CCCCC1)(C)[Zn]Br","step_weight": 0,"rationale": "Zinc undergoes oxidative addition into the C–Br bond due to the electrophilicity of the α-carbon adjacent to the ester carbonyl, forming a stabilized organozinc species that is less reactive than a Grignard reagent."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C([O-])(c1ccc(N(C)C)cc1)c1ccc(OC)cc1)(C1CCCCC1)(C)C(=O)Oc1ccc(OC)cc1.[Zn+2].[Br-]","step_weight": 0,"rationale": "The organozinc reagent acts as a soft nucleophile, attacking the electrophilic carbonyl carbon of the aldehyde; the ester group remains intact due to the mild nucleophilicity of zinc enolates."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(O)(c1ccc(N(C)C)cc1)c1ccc(OC)cc1)(C1CCCCC1)(C)C(=O)Oc1ccc(OC)cc1","step_weight": 0,"rationale": "Aqueous workup protonates the alkoxide intermediate, driven by the strong thermodynamic preference for neutral alcohol formation under acidic or neutral conditions."}],"description": "Zinc inserts into the α-bromo ester via oxidative addition, forming an organozinc reagent. This nucleophilic species adds to the aldehyde, generating an alkoxide intermediate. Aqueous workup protonates the alkoxide, yielding the β-hydroxy ester product characteristic of the Reformatsky reaction."}
{"reaction_id": "NR-049_1-C_2-c1ccccc1_3-CC_4-c1ccccc1","name": "Corey-Seebach Reaction","level": "easy","reactants_smiles": ["S(C)C(c1ccccc1)S(C)","O=C(CC)(c1ccccc1)"],"products_smiles": ["S(C)C(c1ccccc1)(C(O)(CC)(c1ccccc1))S(C)"],"conditions": "1) n-BuLi 2) Benzaldehyde 3) H3O+ workup","mechnism_text_description": "The mechanism begins with the deprotonation of 2-ethyl-1,3-dithiane (CCC1SCCS1) at the C2 position by n-butyllithium (n-BuLi), forming a nucleophilic lithiated dithiane carbanion. This carbanion then undergoes nucleophilic addition to the electrophilic carbonyl carbon of benzaldehyde (O=Cc1ccccc1), generating a lithium alkoxide intermediate. Finally, protonation of this alkoxide by an acidic workup (e.g., H3O+) yields the final product, 2-ethyl-2-(hydroxy(phenyl)methyl)-1,3-dithiane.","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "S(C)[C-](c1ccccc1)S(C)","step_weight": 0,"rationale": "n-BuLi abstracts the acidic C2 proton, as the adjacent sulfurs stabilize the resulting carbanion through inductive withdrawal and resonance, making deprotonation thermodynamically favorable."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "S(C)C(c1ccccc1)(C([O-])(CC)(c1ccccc1))S(C)","step_weight": 0,"rationale": "The carbanion attacks the aldehyde’s electrophilic carbonyl carbon, driven by strong nucleophilicity and polarization of the C=O bond, forming a tetrahedral alkoxide intermediate."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "S(C)C(c1ccccc1)(C(O)(CC)(c1ccccc1))S(C)","step_weight": 0,"rationale": "Acidic workup protonates the alkoxide oxygen, favored by the high basicity of the alkoxide and the availability of protons in the acidic medium."}],"description": "n-BuLi deprotonates the acidic C2 of the dithiane, generating a stabilized carbanion via sulfur’s inductive and resonance effects. This nucleophile attacks the electrophilic aldehyde carbon, forming an alkoxide, which is protonated during acidic workup to yield the hydroxylated dithiane product."}
